US09399646B2
Step 3: 3-((E)-4-((E)-2-Phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)styryl)-1,2,4-oxadiazol-5(4H)-one
To a solution of (1Z,2E)-N′-hydroxy-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylimidamide (51 mg, 0.1 mmol) in anhydrous DMF (0.4 mL) was added 2-ethylhexylchloroformate (20 μL, 0.1 mmol) followed by pyridine (9 μL, 0.11 mmol). The reaction mixture was stirred at 0° C. for 1 h and then partitioned between water and EtOAc. The aqueous layer was extracted with EtOAc (2×), and the combined organics were dried over MgSO4 and concentrated. The residue was dissolved in xylenes (1 mL), heated at 130° C. for 2 h, and then concentrated to afford 25 mg of the title compound. LCMS: 519 (M+H)+.

reactant | (1Z,2E)-N′-hydroxy-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylimidamide | 0.1 mmol, 51 mg | O\N=C(\C=C\C1=CC=C(C=C1)/C(=C(/CC)\C1=CC=CC=C1)/C=1C=C2C=NN(C2=CC1)C1OCCCC1)/N | C31H32N4O2
reactant | 2-ethylhexylchloroformate | 0.1 mmol, 20 μL | C(C)C(COC(=O)Cl)CCCC | C9H17ClO2
reactant | pyridine | 0.11 mmol, 9 μL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 3-((E)-4-((E)-2-Phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)styryl)-1,2,4-oxadiazol-5(4H)-one | 25 mg | C1(=CC=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(/C=C/C2=NOC(N2)=O)C=C1)/CC | C32H30N4O3
